US06727264B1
N-(3-{1-[6-(3-ACETYLPHENOXY)-6-PHENYLHEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 1-(3-hydroxyphenyl)ethanone and N-{3-[1-(6-hydroxy-6-phenylhexyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 541.2 (M+H)+.

reactant | 1-(3-hydroxyphenyl)ethanone | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | N-{3-[1-(6-hydroxy-6-phenylhexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | OC(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C27H38N2O2
product | N-(3-{1-[6-(3-ACETYLPHENOXY)-6-PHENYLHEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(C)(=O)C=1C=C(OC(CCCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1 | C35H44N2O3
